### PR TITLE
Displayed algebra

### PR DESCRIPTION
**Pull request by amato-gianluca**
This PR introduces enhancements to the module on universal algebra. Along with several minor improvements, we introduce the concept of _displayed algebra_. This work will be presented at [HOTT-UF 2025](https://hott-uf.github.io/2025/).

### CODE REVIEW

File: UniMath/Algebra/Universal/HVecRel.v [hunk 1]
```diff
@@ -0,0 +1,121 @@
...
+    use iscontr_setquotuniteqrel.
+  - intros x n' v' IH rels.
+    change (eqrelhvec (x ::: v') rels) with (eqreldirprod (hhd rels) (eqrelhvec v' (htl rels))).
+    use (weqcomp (weqsetquottodirprod (hhd rels) (eqrelhvec v' (htl rels)))).
+    simpl.
+    use eqweqmap.
+    use (maponpaths (λ arg, setquot (hhd rels) × arg)).
+    use weqtopaths.
+    use IH.
+Qed.
```
Comment (benediktahrens) [inline UniMath/Algebra/Universal/HVecRel.v:121]: Not sure if you want to use `Qed` here; mabye rather `Defined`?

File: UniMath/Algebra/Universal/SubAlgebras.v [hunk 2]
```diff
@@ -0,0 +1,266 @@
...
+      destruct Hb.
+      exact Bb.
+    + intro Ba.
+      use hinhpr.
+      unfold pr1carrier.
+      simpl.
+      use tpair.
+      * exact (a,, Ba).
+      * apply idpath.
+Qed.
```
Comment (benediktahrens) [inline UniMath/Algebra/Universal/SubAlgebras.v:253]: `Defined` ?

**Review by benediktahrens — APPROVED** [review]

File: UniMath/MoreFoundations/Univalence.v [hunk 3]
```diff
@@ -163,3 +192,72 @@ Proof.
...
+  set (XR := homotinvweqweq (weqtoforallpaths _ F F') e).
+  set (H := funextsec Y F F' (toforallpaths Y F F' e)).
+  set (P' := λ (F0 : ∏ (x:X), Y x) , P x (F0 x)).
+  use pathscomp0.
+  - exact (transportf P' e f).
+  - use transportf_paths. exact XR.
+  - induction e. apply idpath.
+Defined.
+
+Definition transportb_funextfun {X Y : UU} (P : Y -> UU) (F F' : X -> Y) (H : ∏ (x : X), F x = F' x)
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Univalence.v:243]: For these proofs, would `Qed` be more appropriate or is `Defined` necessary? Some use `rewrite`, and the resulting proof terms might not be nice.

File: UniMath/Algebra/Universal/DisplayedAlgebras.v [hunk 4]
```diff
@@ -0,0 +1,374 @@
...
+    use tpair.
+    + exact (ops A nm (h1map (λ s, pr1) xs)).
+    + use overops. (*TODO: can we define this without transport and/or a new "map" variant ?*)
+      use (transportb (λ arg, hvec (h1lower arg)) (h1map_compose (λ s, pr1) (fib D) xs)).
+      use (h12map (λ s, pr2) xs).
+Defined.
+
+End Definitions.
+
+  Lemma transportf_overops
```
Comment (nmvdw) [inline UniMath/Algebra/Universal/DisplayedAlgebras.v:47]: The indenting in this file is inconsistent. In the previous Section, the identifiers are not indented, this defined is indented using 2 spaces, and in the next Section, the identifiers are indented using 2 spaces.

File: UniMath/Algebra/Universal/DisplayedAlgebras.v [hunk 5]
```diff
@@ -0,0 +1,374 @@
...
+      eapply pathscomp0.
+      { use (transportf_overops _ _ _). }
+      use maponpaths.
+      unfold hvec_of_shfiber.
+      eapply pathscomp0.
+      { use transport_hvec_ofpaths. }
+      eapply pathscomp0.
+      { apply h2map_compose. }
+      apply h2map_idfun.
+    Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Universal/DisplayedAlgebras.v:322]: Should these propositions/theorems be `Defined` or `Qed`? They contain a lot of equational reasoning that most likely won't be unfolded.

File: UniMath/Algebra/Universal/Congruences.v [hunk 6]
```diff
@@ -0,0 +1,83 @@
...
+ := ∏ nm: names σ, iscomprelfunrel (shrelList R (arity nm)) (R (sort nm)) (ops A nm).
+
+Definition iscong {σ : signature}
+  (A : algebra σ) (R : shrel A)
+  := siseqrel R × iscompatible A R.
+
+Definition congruence {σ : signature} (A : algebra σ)
+  := ∑ (R : shrel A), iscong A R.
+
+(*TODO: make this a coercion*)
```
Comment (nmvdw) [inline UniMath/Algebra/Universal/Congruences.v:49]: Why not make it a coercion now?

**Review by nmvdw — APPROVED** [review]
lgtm

File: UniMath/MoreFoundations/Univalence.v (hunk 3 above)
Comment (CalosciMatteo) [reply UniMath/MoreFoundations/Univalence.v:243]: `Defined` is not necessary.

Probably it would be needed to rewrite these proofs anyway if unfolding of the proof terms were necessary.

**Comment by CalosciMatteo** [comment]
Thanks for the review and sorry for some trivial oversight. I will commit the corrections as soon as possible

File: UniMath/Algebra/Universal/Congruences.v (hunk 6 above)
Comment (arnoudvanderleer) [reply UniMath/Algebra/Universal/Congruences.v:49]: @CalosciMatteo You can now remove this comment in the code :-)

File: UniMath/Algebra/Universal/SubAlgebras.v (hunk 2 above)
Comment (arnoudvanderleer) [reply UniMath/Algebra/Universal/SubAlgebras.v]: Why is that?

**Comment by arnoudvanderleer** [comment]
@nmvdw @benediktahrens Are there still things that must be done before merging?

**Comment by benediktahrens** [comment]
> @nmvdw @benediktahrens Are there still things that must be done before merging?

There are conflicts that need to be resolved before merging, unfortunately.

**Comment by rmatthes** [comment]
Please merge master into this branch. Continuous integration should then work.

**Review by benediktahrens — APPROVED** [review]
